US04656235
Synthesis of 1,5-Bis(3-furyl)-hexamethyl trisiloxane
Twenty-two (22) ml of n-butyllithium (1.55M in hexane) and 5 ml dry tetrahydrofuran (THF) were added under nitrogen to a 250 ml round-bottomed flask equipped with a magnetic stirrer. The solution was cooled to -78 degrees C. Five (5) grams of 3-Bromofuran in 10 ml dry THF were then added dropwise under nitrogen, with constant stirring. The solution was stirred for 1 hour upon which a slurry formed. 4.718 g of 1,5-dichlorohexamethyl trisiloxane in 10 ml dry THF were then added dropwise under nitrogen. The solution was then stirred for 4 hours, during which time it was allowed to come to room temperature. The solution was poured into 30 ml of water containing 3 ml conc. HCl. The organic layer was removed, and the aqueous layer extracted with 3×20 ml portions of ether. The organic layers were combined, dried using anhydrous Na2SO4, and filtered. The solvents were removed in vacuo, to give 4.2 g of an orange liquid.

reactant | n-butyllithium | 1.55M | C(CCC)[Li]
reactant | 3-Bromofuran | BrC1=COC=C1 | C4H3BrO
reactant | 1,5-dichlorohexamethyl trisiloxane | 4.718 g | Cl[Si](O[Si](O[Si](Cl)(C)C)(C)C)(C)C | C6H18Cl2O2Si3
reactant | water | 30 ml | O | H2O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1,5-Bis(3-furyl)-hexamethyl trisiloxane | 4.2 g | O1C=C(C=C1)[Si](O[Si](O[Si](C1=COC=C1)(C)C)(C)C)(C)C | C14H24O4Si3
